US07176212B2
2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-anilinopyrimidine
4-Anilino-2-(4-(2,3-epoxypropoxy)anilino)pyrimidine (Reference Example I-1, 0.61 g, 1.84 mmol) was dissolved in DMF (2 ml) and treated with dimethylamine (6 mmol, 3 ml of a 2M solution in EtOH). After stirring overnight at ambient temperature the reaction mixture was partitioned between EtOAc and water. The organic phase was washed with water, dried over MgSO4 and evaporated at reduced pressure. The residue was purified by chromatography (0.1%NH3 (aq), 3–10% MeOH in DCM as eluent). Upon evaporation of the fractions, an oily product was obtained,this was triturated with ether to give the title product as a white solid (0.126 g, 18%). NMR (300 MHz): 2.2 (s, 6H), 2.3–2.8 (m, 2H), 3.75–3.95 (m, 3H(, 4.82 (brs, 1H), 6.17 (d, 1H), 6.82 (d, 2H), 6.97 (t, 1H), 7.27 (t, 2H), 7.58 (d, 2H), 7.66 (d, 2H), 7.95 (d, 1H), 8.95 (s, 1H), 9.25 (s, 1H); m/z: (ES+) 380.4 (MH+).

reactant | 4-Anilino-2-(4-(2,3-epoxypropoxy)anilino)pyrimidine | 1.84 mmol, 0.61 g | N(C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)OCC1CO1 | C19H18N4O2
reactant | dimethylamine | CNC | C2H7N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOH | CCO | C2H6O
product | 2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-anilinopyrimidine | 0.126 g, 18% | CN(C)CC(COC1=CC=C(NC2=NC=CC(=N2)NC2=CC=CC=C2)C=C1)O | C21H25N5O2
